US08119633B2
5-(2,4,6-Trichloro-N-methylphenylsulfonamido)pentanoic acid S10
A solution of lithium hydroxide (18.2 mg, 0.76 mmol) in water (3 ml) was added to a solution of methyl 5-(2,4,6-trichloro-N-methylphenylsulfonamido)pentanoate (178 mg, 0.45 mmol) in THF (5 ml), and stirring was carried out for 18 h at room temperature. THF was then concentrated in vacuo, water was added to the residue, and extraction with DCM (2×20 ml) was carried out. The aqueous phase was adjusted to pH 1-2 with concentrated hydrochloric acid and extracted with ethyl acetate (3×20 ml). The combined organic extracts were dried over sodium sulfate and concentrated in vacuo.

reactant | lithium hydroxide | 0.76 mmol, 18.2 mg | [OH-].[Li+]
reactant | methyl 5-(2,4,6-trichloro-N-methylphenylsulfonamido)pentanoate | 0.45 mmol, 178 mg | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)N(C)CCCCC(=O)OC | C13H16Cl3NO4S
solvent | water | 3 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-(2,4,6-Trichloro-N-methylphenylsulfonamido)pentanoic acid | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)N(C)CCCCC(=O)O | C12H14Cl3NO4S
